US06380387B1
N-[(2-ethyl-6-methylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine was prepared from 4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester and 2-ethyl-6-methylbenzoic acid using the general procedures described in example 7 and was obtained as a white solid: mp 127-133° C. ES-HRMS m/e calcd for C26H29N3O5 (M+Na) 494.1498, found 494.1501.

reactant | 4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine methyl ester | COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)=O | C17H21N3O4
reactant | 2-ethyl-6-methylbenzoic acid | C(C)C1=C(C(=O)O)C(=CC=C1)C | C10H12O2
product | N-[(2-ethyl-6-methylphenyl)carbonyl]-4-(1,3,6-trimethyl-2,4-dioxo-5-pyrimidinyl)-L-phenylalanine | C(C)C1=C(C(=CC=C1)C)C(=O)N[C@@H](CC1=CC=C(C=C1)C=1C(N(C(N(C1C)C)=O)C)=O)C(=O)O | C26H29N3O5
